US08222248B2
To a solution of 2,6-dichloro-4-hydroxy-benzaldehyde (190 mg, 1.0 mmol) and hydroxymethyl-phosphonic acid diethyl ester (278 mg, 1.0 mmol) in THF (8 mL) was added PPh3-resin (553 mg, 2.13 mmol/g) and DEAD (0.54 ml of 40% solution, 1.2 mmol). The suspension was stirred at ambient temperature overnight then the reaction mixture was filtered and partioned between water and EtOAc. The aqueous layer was extracted with EtOAc and the combined organic layers were dried with MgSO4, filtered and concentrated. Purification by flash chromatography using heptane/EtOAc (1:3) gave (3,5-dichloro-4-formylphenoxymethyl)-phosphonic acid diethyl ester as a colorless oil.

reactant | 2,6-dichloro-4-hydroxy-benzaldehyde | 1.0 mmol, 190 mg | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
reactant | hydroxymethyl-phosphonic acid diethyl ester | 1.0 mmol, 278 mg | C(C)OP(OCC)(=O)CO | C5H13O4P
reactant | PPh3 | 553 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 1.2 mmol, 0.54 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (3,5-dichloro-4-formylphenoxymethyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)COC1=CC(=C(C(=C1)Cl)C=O)Cl | C12H15Cl2O5P
